US06506901B2
3-Hydroxy-4-[(2S)-oxiranylmethoxy]-9H-carbazole
A solution of 4-[(2S)-oxiranylmethoxy]-9H-carbazole (0.183 g, 0.76 mmol) in 20 mL dry methylene chloride was treated with 0.258 g of 56-86% m-chloroperbenzoic acid. The reaction was stirred at ambient temperature for 45 minutes. The reaction mixture was partitioned with saturated sodium bicarbonate (sat'd NaHCO3) The organic phase was dried (Na2SO4) and concentrated to a dark red oil. Purification by flash chromatography eluting with methylene chloride (CH2Cl2), afforded 0.040 g of the title compound.

reactant | 4-[(2S)-oxiranylmethoxy]-9H-carbazole | 0.76 mmol, 0.183 g | O1[C@@H](C1)COC1=CC=CC=2NC3=CC=CC=C3C12 | C15H13NO2
reactant | m-chloroperbenzoic acid | 0.258 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-Hydroxy-4-[(2S)-oxiranylmethoxy]-9H-carbazole | 0.040 g | OC=1C=CC=2NC3=CC=CC=C3C2C1OC[C@H]1OC1 | C15H13NO3
